US06852755B1
(ii) 3.5-difluoro-4-[bis(2-hydroxyethyl)amino]benzoic acid
A solution of the 3.5-Difluoro-4-[bis(2-hydroxyethyl) amino]benzonitrile (3.15 g, 13 mmol) and NaOH (5.2 g, 0.13 mol) in aqueous ethanol (65 ml, 50%) was refluxed for 2.5 hours. The solution was then partitioned between EtOAc (800 ml) and HCl (330 ml, 0.4 M), the aqueous layer washed with EtOAc (3×150 ml), the combined organic layers dried (MgSO4) and evaporated to dryness. The solid recrystallized from EtOAc (100 ml) to give 2.94 g (87%) of pure white crystals: mp 146.5-150° C.; 1H NMR δ 3.3 (t, 4H, CH2N), 3.46 (q, 4H, CH2O, J=5.5 Hz), 4.49 (t, 2H, OH, J=5 Hz), 7.44 (d, 2H, H2+6, J=10.5 Hz), 13.1 (bs, 1H, CO2H); 19F NMR δ −117.3 (d, 2F, F3+5, J=9.5 Hz); MS m/z 284 (M+Na+, 15), 262 (M+H+, 100), 230 (M-CH2OH, 40). Anal. (C11H13NO4F2) C,H,N.

reactant | 3.5-Difluoro-4-[bis(2-hydroxyethyl) amino]benzonitrile | 13 mmol, 3.15 g | FC=1C=C(C#N)C=C(C1N(CCO)CCO)F | C11H12F2N2O2
reactant | NaOH | 0.13 mol, 5.2 g | [OH-].[Na+]
reactant | ethanol | 65 ml | C(C)O | C2H6O
product | 3.5-difluoro-4-[bis(2-hydroxyethyl)amino]benzoic acid | 2.94 g, 87% | FC=1C=C(C(=O)O)C=C(C1N(CCO)CCO)F | C11H13F2NO4
